US09227985B2
Step 2. 3-(2-Bromopyridin-3-yl)-5-nitro-3,4-dihydro-2H-1,4-benzoxazin-3-ol
A solution of 2-bromo-1-(2-bromopyridin-3-yl)ethanone (2.15 g, 7.71 mmol) in methylene chloride (77.1 mL) and water (19.3 mL) was treated with potassium carbonate (2.13 g, 15.4 mmol), tetra-N-butylammonium bromide (500 mg, 1.50 mmol), and 2-amino-3-nitrophenol (1.31 g, 8.48 mmol), and heated at 40° C. for 5 h. The reaction mixture was then diluted with brine. The aqueous layer was separated and extracted with dichloromethane (2×100 mL). The combined organic layers were washed with water and brine, dried over magnesium sulfate, filtered, and concentrated to give the crude product. Purification by flash column chromatography (100% hexanes to 35% ethyl acetate/hexanes) gave the desired product (2.45 g, 90%) as a racemic mixture. LCMS calculated for C13H11BrN3O4 (M+H)+: m/z=352.0, 354.0. found: 351.7, 353.8.

reactant | 2-bromo-1-(2-bromopyridin-3-yl)ethanone | 7.71 mmol, 2.15 g | BrCC(=O)C=1C(=NC=CC1)Br | C7H5Br2NO
reactant | potassium carbonate | 15.4 mmol, 2.13 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-amino-3-nitrophenol | 8.48 mmol, 1.31 g | NC1=C(C=CC=C1[N+](=O)[O-])O | C6H6N2O3
solvent | methylene chloride | 77.1 mL | C(Cl)Cl | CH2Cl2
solvent | water | 19.3 mL | O | H2O
catalyst | tetra-N-butylammonium bromide | 1.50 mmol, 500 mg | CCCC[N+](CCCC)(CCCC)CCCC.[Br-]
solvent | brine | [Cl-].[Na+].O
product | 3-(2-Bromopyridin-3-yl)-5-nitro-3,4-dihydro-2H-1,4-benzoxazin-3-ol | 2.45 g, 90% | BrC1=NC=CC=C1C1(COC2=C(N1)C(=CC=C2)[N+](=O)[O-])O | C13H10BrN3O4
